US06329546B1
Synthesis of (E) 3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid ethyl ester
Into 30 ml of benzene, 2.0 g (7 mmol) of 3-(2-nitro-benzo[d]phenyl) -2-methyl-2-propenoic acid ethyl ester were dissolved; and, with 1.73 g of iron powder (Koso Chem. Co.) and 2.5 ml of distilled water being added thereto under stirring at room temperature, temperature was raised, so that the mixture was heated to 70° C. After a reaction of 1.5 hours, insoluble matters were filtered out. The filtrate was added to 100 ml of water, and then was extracted twice with 100 ml of ethyl acetate. The resulting ethyl acetate solution was successively washed with water, an aqueous sodium hydrogencarbon ate solution, and a saturated aqueous sodium chloride solution. The washed product was dried on sodium sulfate anhydride and concentrated, whereby an oily product was obtained. This product was refined by a silica gel column chromatography (silica gel; developing solvent: ethyl acetate/hexane=1/5), whereby 1.4 g of the aimed compound were obtained as an oily product (yield: 77%).

reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | 3-(2-nitro-benzo[d]phenyl) -2-methyl-2-propenoic acid ethyl ester | 7 mmol, 2.0 g | C(C)OC(C(=CC1=CC=C2C(=C1)C=CC(=C2)[N+](=O)[O-])C)=O | C16H15NO4
reactant | water | 2.5 ml | O | H2O
catalyst | iron | 1.73 g | [Fe] | Fe
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-(2-amino-benzo[d]phenyl)-2-methyl-2-propenoic acid ethyl ester | 1.4 g | C(C)OC(C(=CC1=CC=C2C(=C1)C=CC(=C2)N)C)=O | C16H17NO2
